US08431569B2
Step 1. 7-Chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile
To a stirred slurry of 1,7-dichloro-5H-pyrido[4,3-b]indole-4-carbonitrile (16 g, 61 mmol) in dioxane (122 mL) was added dicyclopropylmethanamine (17 g, 153 mmol). The reaction mixture was heated to 135° C. for 1 d, cooled to room temperature, and concentrated. The residue was diluted with EtOAc and water. The aqueous layer was extracted with EtOAc (×3). The combined organics were washed with brine, dried (sodium sulfate), concentrated, and purified by flash chromatography to give the title compound. LRMS (APCI) calc'd for (C19H17ClN4) [M+H]+, 337.1. found 337.1.

reactant | 1,7-dichloro-5H-pyrido[4,3-b]indole-4-carbonitrile | 61 mmol, 16 g | ClC1=NC=C(C=2NC=3C=C(C=CC3C21)Cl)C#N | C12H5Cl2N3
reactant | dicyclopropylmethanamine | 153 mmol, 17 g | C1(CC1)C(N)C1CC1 | C7H13N
solvent | dioxane | 122 mL | O1CCOCC1 | C4H8O2
product | 7-Chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3NC(C3CC3)C3CC3)C#N | C19H17ClN4
